assignment
*SPICE Netlist generated by Advanced Sim server on 07-05-2025 23:42:07
.options MixedSimGenerated

*Schematic Netlist:
RR4 3V3 NetR3_1 1K TC1=0 TC2=0
RR5 3V3 NetR2_1 1K TC1=0 TC2=0

.PLOT {V(3V3)} =PLOT(1) =AXIS(1)

*Selected Circuit Analyses:
.TRAN 0.1u 5u 0 0.1u

.END